US08748418B2
(S)-3-(5-bromo-2-fluoro-phenyl)-3-((R)-2-methyl-propane-2-sulfinylamino)-butyric acid ethyl ester
A dried four-necked 750 ml round-bottom flask equipped with mechanical stirrer, reflux condenser, internal thermometer and septum was charged with activated zinc powder (30.6 g, 468 mmol) and copper(I) chloride (4.64 g, 47 mmol), the two solids were mixed under a slow stream of nitrogen while the flask was dried with a heat gun. After cooling to 23° C., dry THF (90 ml) was added to produce a dark slurry, heated to reflux and stirred vigorously for 30 min. The heating bath was removed and a solution of ethyl bromoacetate (12.95 ml, 117 mmol) in dry THF (50 ml) was added at such rate that reflux was reinitiated and a controllable reflux was maintained. Once addition was complete, the mixture was stirred for 30 min at 50° C. Cooled to 5° C., a solution of (R)-2-methyl-propane-2-sulfinic acid [1-(2-fluoro-5-bromo-phenyl)-(E)-ethylidene]-amide (intermediate A2B) (15.0 g, 47 mmol) in dry THF (60 ml) was added dropwise and the mixture was stirred at 0° C. for 1 h. The reaction mixture was filtered through dicalite, washed with TBME, the filtrate was washed with 5% citric acid, sat. NaHCO3-sol. and brine, dried over Na2SO4. Removal of the solvent in vacuum left the crude title compound as an orange oil (20.3 g, 106%), which was used in the next step without further purification. MS (ISP): m/z=408.0 [(M+H)+] and 410.1 [(M+2+H)+].

reactant | ethyl bromoacetate | 117 mmol, 12.95 ml | BrCC(=O)OCC | C4H7BrO2
reactant | (R)-2-methyl-propane-2-sulfinic acid [1-(2-fluoro-5-bromo-phenyl)-(E)-ethylidene]-amide | 47 mmol, 15.0 g | FC1=C(C=C(C=C1)Br)\C(\C)=N\[S@](=O)C(C)(C)C | C12H15BrFNOS
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
catalyst | zinc | 468 mmol, 30.6 g | [Zn] | Zn
catalyst | copper(I) chloride | 47 mmol, 4.64 g | [Cu]Cl
product | (S)-3-(5-bromo-2-fluoro-phenyl)-3-((R)-2-methyl-propane-2-sulfinylamino)-butyric acid ethyl ester | C(C)OC(C[C@](C)(N[S@](=O)C(C)(C)C)C1=C(C=CC(=C1)Br)F)=O | C16H23BrFNO3S
